US04663332
1-[2-Hydroxy-3-propyl-4-[5-(1H-tetrazol-5-yl)pentyloxy]phenyl]ethanone was allowed to react with 3-(4-bromobutyl)pyridine hydrobromide according to procedure B and the product was purified by high pressure liquid chromatography to give 1-[2-hydroxy-3-propyl-4-[5-[1-[4-(3-pyridinyl)butyl]-1H-tetrazol-5-yl]pentyloxy]phenyl]ethanone, which is the N-1 isomer, and 1-[2-hydroxy-3-propyl-4-[5-[2-[4-(3-pyridinyl)butyl]-2H-tetrazol-5-yl]pentyloxy]phenyl]ethanone, which is the N-2 isomer.

reactant | 1-[2-Hydroxy-3-propyl-4-[5-(1H-tetrazol-5-yl)pentyloxy]phenyl]ethanone | OC1=C(C=CC(=C1CCC)OCCCCCC1=NN=NN1)C(C)=O | C17H24N4O3
reactant | 3-(4-bromobutyl)pyridine hydrobromide | Br.BrCCCCC=1C=NC=CC1
product | 1-[2-hydroxy-3-propyl-4-[5-[1-[4-(3-pyridinyl)butyl]-1H-tetrazol-5-yl]pentyloxy]phenyl]ethanone | OC1=C(C=CC(=C1CCC)OCCCCCC1=NN=NN1CCCCC=1C=NC=CC1)C(C)=O | C26H35N5O3
